US06894169B1
N-(2-hydroxyethyl)-4-picolinium bromide (Ia)
In a 3-neck, round-bottomed flask flushed with nitrogen, 2-bromo-1-ethanol (40.01 mmol), 4-picoline (43.57 mmol) and absolute ethanol (16 mL) were combined and heated for 3.5 hours at 50° C. under nitrogen with stirring. The reaction was stopped and the contents of the flask were transferred to a one-neck round-bottomed flask. The solvent was removed under vacuum and the residue was washed with diethyl ether (4×100 ml) and any remaining solvent was removed under vacuum. The product was obtained as a viscous orange liquid in a 34% yield. 1H NMR (200 MHz, CDCl3) 8.9 (2H, protons on pyridine ring), 8.0 (2H, protons on pyridine ring), 2.6 (3H, CH3), 4.6 (2H, —CH2O), 3.8 (2H, —NCH2—), 5.2 (1H, —OH); IR (neat, cm−1) 3303 (OH), 1640 (aromatic C═N), 1474 (aromatic C—C).

reactant | 2-bromo-1-ethanol | 40.01 mmol | BrCCO | C2H5BrO
reactant | 4-picoline | 43.57 mmol | N1=CC=C(C=C1)C | C6H7N
solvent | ethanol | 16 mL | C(C)O | C2H6O
product | N-(2-hydroxyethyl)-4-picolinium bromide | 34% yield | [Br-].OCC[N+]1=CC=C(C=C1)C | InChI=1S/C8H12NO.BrH/c1-8-2-4-9(5-3-8)6-7-10;/h2-5,10H,6-7H2,1H3;1H/q+1;/p-1
